US08426411B2
To a solution of ethyl 2-ethyl-4-oxocyclopentanecarboxylate (12.82 g, 69.6 mmol, 86% ee, predominantly 1S,2R) in MeOH (183 mL) was added sodium borohydride (3.29 g, 87 mmol) portion-wise. The suspension was stirred at ambient temperature for about 16 h. Saturated aqueous NH4Cl (200 mL) was added and the reaction was stirred for about 3 h. The white precipitate that formed was filtered and washed with Et2O (100 mL). The filtrate was poured into Et2O (300 mL). The solid was filtered and washed with Et2O (50 mL). The layers were separated and the aqueous layer was extracted with Et2O (2×150 mL). The combined organic layers were washed with brine (2×150 mL), dried over anhydrous MgSO4, filtered and concd under reduce pressure (keeping bath temperature about 25° C. and vacuum >50 psi) to give a crude product as a thick light yellow oil. The oil was washed with pentane (5×80 mL). The combined pentane layers were dried over anhydrous MgSO4, filtered and concd to give an oil which was purified by silica gel chromatography using 1:1 EtOAc:pentane to give ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate as a scalemic mixture of diastereomers predominantly (1S,2R,4S)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate (12.38 g, 96%) as a clear oil; 1H NMR (400 MHz, CDCl3) δ 4.34-4.25 (m, 1H), 4.23-4.09 (m, 2H), 3.43-3.17 (m, 1H), 2.88 (td, J=7.1, 2.2, 1H), 2.40 (dt, J=14.0, 7.8, 1H), 2.09-1.91 (m, 3H), 1.33-1.24 (m, 4H), 0.95 (t, J=7.4, 3H).

reactant | ethyl 2-ethyl-4-oxocyclopentanecarboxylate | C(C)C1C(CC(C1)=O)C(=O)OCC | C10H16O3
reactant | sodium borohydride | 87 mmol, 3.29 g | [BH4-].[Na+]
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | MeOH | 183 mL | CO | CH4O
product | ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate | C(C)C1C(CC(C1)O)C(=O)OCC | C10H18O3
